US05998433
b) Synthesis of N-(2-methoxyethyl)-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N-(2-Methoxyethyl)-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.322 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. The resulting mixture was then concentrated to yield the desired product.

reactant | N-(2-Methoxyethyl)-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.322 g | COCCN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C26H28N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N-(2-methoxyethyl)-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.COCCN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | InChI=1S/C26H28N2O4.ClH/c1-27(14-15-31-2)17-23-16-22-12-13-28(18-24(22)32-23)26(30)21-10-8-20(9-11-21)25(29)19-6-4-3-5-7-19;/h3-11,16H,12-15,17-18H2,1-2H3;1H
